US04832732
111 Parts of α-cyclohexylcyclohexanemethanamine and 60 parts of sodium carbonate were dispersed in 320 parts of methanol. 54 Parts of methyl bromoacetate were added dropwise to this dispersion. The mixture was stirred at room temperature for 72 hours. The precicitate was separated and the solution was concentrated to dryness, yielding methyl N-[(dicyclohexyl)methyl]glycine quantitatively (int. 1).

reactant | α-cyclohexylcyclohexanemethanamine | C1(CCCCC1)C(N)C1CCCCC1 | C13H25N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
solvent | methanol | CO | CH4O
product | methyl N-[(dicyclohexyl)methyl]glycine | CN(CC(=O)O)C(C1CCCCC1)C1CCCCC1 | C16H29NO2
